US07977340B2
A stirred suspension of the crude 1-[7-(5-Cyano-pyridin-2-yl)-5-hydroxy-benzothiazol-2-yl]-3-ethyl-urea (80 mg, 0.23 mmol) in anhydrous dimethylformamide (3 ml) was treated with N-phenylbis(trifluoromethanesulfonimide) (99 mg, 0.276 mmol) and anhydrous triethylamine (32 μl, 0.23 mmol). After stirring at ambient temperature for 2 h, the solution was diluted with ethylacetate (100 ml), washed with water (3×30 ml), dried (MgSO4) and the solvent removed to give the crude trifluoro-methanesulfonic acid 7-(5-cyano-pyridin-2-yl)-2-(3-ethyl-ureido)-benzothiazol-5-yl ester (108 mg, 100%) which was used without further purification.

reactant | 1-[7-(5-Cyano-pyridin-2-yl)-5-hydroxy-benzothiazol-2-yl]-3-ethyl-urea | 0.23 mmol, 80 mg | C(#N)C=1C=CC(=NC1)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)O | C16H13N5O2S
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.276 mmol, 99 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.23 mmol, 32 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | trifluoro-methanesulfonic acid 7-(5-cyano-pyridin-2-yl)-2-(3-ethyl-ureido)-benzothiazol-5-yl ester | 108 mg, 100% | C(#N)C=1C=CC(=NC1)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)OS(=O)(=O)C(F)(F)F | C17H12F3N5O4S2
